US07420001B2
To 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester (6.336 g, 28.8 mmol, 1 eq) in methylene chloride (120 mL) in a round bottom flask under nitrogen was added N,N-diisopropylethylamine (12.54 mL, 72.0 mmol, 2.5 eq). The mixture was cooled to 0° C. and trifluoromethanesulfonic anhydride (7.27 mL, 43.2 mmol, 1.5 eq) was added dropwise. After stirring for one hour, the mixture was diluted with methylene chloride (350 mL), and washed with water twice. The organic layer was dried and evaporated in vacuo to give 3-methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid ethyl ester suitable for use without purification. 1H NMR (400 MHz, CDCl3) δ ppm 1.5 (t, J=7.1 Hz, 3 H) 2.8 (s, 3 H) 4.5 (q, J=7.2 Hz, 2 H) 7.2 (d, J=9.6 Hz, 1 H) 7.5 (t, J=8.2 Hz, 1 H) 7.6 (d, J=8.3 Hz, 1 H).

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 28.8 mmol, 6.336 g, 1 eq | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C12H12O4
reactant | N,N-diisopropylethylamine | 72.0 mmol, 12.54 mL, 2.5 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic anhydride | 43.2 mmol, 7.27 mL, 1.5 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C13H11F3O6S
